US05350748
To 3-[(1-methylethyl)thio]benzo[b]thiophene-2-carboxylic acid (133 mg, 0.53 mmol) [Connor D. T., et al., U.S. Pat. No. 4,703,053 (1987)] in 6 mL of THF is added N,N-carbonyldiimidazole (99 mg, 0.61 mmol). The mixture is heated at reflux for 1.5 hours then cooled slightly. Aqueous NH4OH (1 mL) is added and the reaction mixture is stirred at room temperature for 30 minutes, then partitioned between ethyl acetate and brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo. The crude product is purified by flash chromatography eluting with 1:1 hexane:ethyl acetate to provide 3-[(1-methylethyl)thio]benzo[b]thiophene-2-carboxamide in 83% yield; mp=183-185° C.

reactant | 3-[(1-methylethyl)thio]benzo[b]thiophene-2-carboxylic acid | 0.53 mmol, 133 mg | CC(C)SC=1C2=C(SC1C(=O)O)C=CC=C2 | C12H12O2S2
reactant | N,N-carbonyldiimidazole | 0.61 mmol, 99 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH4OH | 1 mL | [NH4+].[OH-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-[(1-methylethyl)thio]benzo[b]thiophene-2-carboxamide | 83% yield | CC(C)SC=1C2=C(SC1C(=O)N)C=CC=C2 | C12H13NOS2
